US04371605
3-Trifluoromethanesulfonyloxy-1,3-benzoxazine-2,4-dione was prepared by the following procedure. To a dried flask with a stirrer, under nitrogen, were added 3-hydroxy-1,3-benzoxazine-2,4-dione (3.35 g, 18.7 mmol) (U.S. Pat. 2,714,105) and 100 mL of dried DME. The mixture was held at -15°, and trifluoromethanesulfonyl chloride (2.00 mL, 18.7 mmol) followed by triethylamine (3.00 mL, 22 mmol) were added dropwise by syringe. After warming to room temperature, the reaction mixture was diluted with 200 mL of methylene chloride and washed successively with water, 2 percent aqueous sodium bicarbonate, and water, and then dried. Evaporation of the solvent gave 5.13 g of white solid: mp 73°-76°. Recrystallization from methylene chloride-hexane gave 3.60 g (62%) of 3-trifluoromethanesulfonyloxy-1,3-benzoxazine-2,4-dione: mp 74°-76°; uv (CH3CN) 237 (11,100), and 289 nm (2180); ir (KBr) 1800 (s), 1742 (vs), 1612 (m), 1465 (s), 1448 (s), 1342 (m), 1228 (vs), 1126 (m), 1090 (m); mass spectrum 310.9686 (calcd for C9H4NO6F3S: 310.9701); 217,0098 (calcd for C9H4O3F3 : 217.0112); 120.0200 (calcd for C7H4O2 : 120.0211). A second crop of product, 0.70 g, raised the overall yield to 73.9%.

reactant | 3-hydroxy-1,3-benzoxazine-2,4-dione | 18.7 mmol, 3.35 g | ON1C(OC2=C(C1=O)C=CC=C2)=O | C8H5NO4
reactant | DME | 100 mL | COCCOC | C4H10O2
reactant | trifluoromethanesulfonyl chloride | 18.7 mmol, 2.00 mL | FC(S(=O)(=O)Cl)(F)F | CClF3O2S
reactant | triethylamine | 22 mmol, 3.00 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-Trifluoromethanesulfonyloxy-1,3-benzoxazine-2,4-dione | FC(S(=O)(=O)ON1C(OC2=C(C1=O)C=CC=C2)=O)(F)F | C9H4F3NO6S
